US08211892B2
0.5 g of 1-bromo-4-iodobenzene and 0.3 g of 1,4-dioxa-8-azaspiro[4.5]decane are placed in 10 ml of toluene and then 0.08 g of tris(dibenzylideneacetone)dipalladium(0), 0.061 g of 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene and 0.255 g of sodium tert-butoxide are added. The reaction medium is brought to reflux of the solvent for 4 h. Ethyl acetate is subsequently added and the mixture is washed twice with water and once with a saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate and concentrated under reduced pressure. The crude product obtained is chromatographed on silica gel, elution being carried out with a heptane/ethyl acetate (4/1) solvent mixture. 0.31 g of 8-(4-bromophenyl)-1,4-dioxa-8-azaspiro[4.5]decane is obtained.

reactant | 1-bromo-4-iodobenzene | 0.5 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 0.3 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.061 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium tert-butoxide | 0.255 g | CC(C)([O-])C.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.08 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(4-bromophenyl)-1,4-dioxa-8-azaspiro[4.5]decane | 0.31 g | BrC1=CC=C(C=C1)N1CCC2(OCCO2)CC1 | C13H16BrNO2
